* C:\Users\usnam\Documents\GitHub\SPRO4\Hardware\precond\opamp2.asc
* Generated by LTspice 24.1.10 for Windows.
V1 33V 0 3.3V
X§U1 N001 05v 33V 0 05v level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R1 33V N001 56k
R2 N001 0 10k
R5 N002 N004 200k
D2 N002 33V D
D3 N002 0 D
V3 N003 0 0
R4 N004 N003 1k
D1 N004 0 SMBJ24CA
R3 out N002 10k
X§U2 05v N002 33V 0 out OPAx340 ;§pnba IN+)IN-)VCC)VEE)OUT
.model D D
.lib C:\Users\usnam\AppData\Local\LTspice\lib\cmp\standard.dio
.op
* .tran 0 0.1 0 0.000001
.lib C:\Users\usnam\Downloads\sbom067d\OPAx340.LIB
.lib UniversalOpAmp1.lib
.backanno
.end
